US05972951
Methyl 4'-(4,5-dihydrooxazol-2-yl)-2'-methylbiphenyl-4-carboxylate
4'-(4,5-Dihydrooxazol-2-yl)-2'-methylbiphenyl-4-carboxylic acid (D113) (0.92 g, 3.3 mmol) was stirred under Ar in dry DMF (20 ml), and sodium hydride (80% in mineral oil, 0.15 g, 5.0 mmol) was added. This mixture was stirred for 30 min, and then treated with iodomethane (0.22 ml, 3.5 mmol). After a further 15 min, the mixture was diluted with ethyl acetate (200 ml), washed with water and brine, dried (Na2SO4) and evaporated. The crude product was purified by chromatography on silica gel, eluting with 0-2% methanol/dichloromethane. This gave the title compound (0.15 g, 15%) as a white solid.

reactant | 4'-(4,5-Dihydrooxazol-2-yl)-2'-methylbiphenyl-4-carboxylic acid | 3.3 mmol, 0.92 g | O1C(=NCC1)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)O)C | C17H15NO3
reactant | sodium hydride | 5.0 mmol, 0.15 g | [H-].[Na+]
reactant | iodomethane | 3.5 mmol, 0.22 ml | IC | CH3I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 4'-(4,5-dihydrooxazol-2-yl)-2'-methylbiphenyl-4-carboxylate | 0.15 g, 15% | O1C(=NCC1)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)OC)C | C18H17NO3
